US05196610
Concentrated sulphuric acid (0.18 g) was added to a solution of 2-(3-(2,4-difluorophenoxy)phenyl)-1,3-dioxolane in acetone (200 cm3). The stirred mixture was heated at 55° C. for 5 hours. After cooling, the solvent was evaporated under reduced pressure, and the residue neutralised by addition of an aqueous solution of sodium hydrogen carbonate. This aqueous mixture was partitioned between diethyl ether and water. The ether layer was separated, dried over anhydrous magnesium sulphate and the solvent evaporated under reduced pressure to give 3-(2,4-difluorophenoxy)benzaldehyde as an oil (6.4 g). The product was shown to be 85% pure by gas liquid chromatography, and was used without further purification.

reactant | sulphuric acid | 0.18 g | S(O)(O)(=O)=O | H2O4S
reactant | 2-(3-(2,4-difluorophenoxy)phenyl)-1,3-dioxolane | FC1=C(OC=2C=C(C=CC2)C2OCCO2)C=CC(=C1)F | C15H12F2O3
solvent | acetone | 200 cm3 | CC(=O)C | C3H6O
product | 3-(2,4-difluorophenoxy)benzaldehyde | 6.4 g | FC1=C(OC=2C=C(C=O)C=CC2)C=CC(=C1)F | C13H8F2O2
